### PR TITLE
feat(Mathlib/CategoryTheory/MorphismProperty/Ind): pro-properties are stable under base change

### PR DESCRIPTION
**Pull request by chrisflav**
Fill the `sorry` for the instance showing that if a morphism property `P` is stable under base change along `f`, then so is `pro P`.

The proof lifts the defining cofiltered limit presentation of a `pro P` morphism into `Over Y`, transports it along the limit-preserving right adjoint `Over.pullback f`, and forgets back to `C`, exhibiting the base change as a cofiltered limit of base changes of the `P`-morphisms.

### CODE REVIEW

File: Proetale/Mathlib/CategoryTheory/MorphismProperty/Ind.lean [hunk 1]
```diff
@@ -168,8 +169,50 @@ lemma pro_coneπ {J : Type w} [SmallCategory J] [IsCofiltered J]
...
+      { pt := CategoryTheory.Over.mk g
+        π :=
+          { app j := CategoryTheory.Over.homMk (s.app j) (hts j).2
+            naturality i j u := by
+              ext
+              simpa using s.naturality u } }
+    have hcY : IsLimit cY := by
+      apply isLimitOfReflects (CategoryTheory.Over.forget Y)
+      exact hs.ofIsoLimit (Cone.ext (Iso.refl _) (fun j ↦ by simp [cY]))
+    -- `Over.pullback f` preserves all limits, being a right adjoint
```
Comment (chrisflav) [inline Proetale/Mathlib/CategoryTheory/MorphismProperty/Ind.lean:184]: You should be able to use `CategoryTheory.Over.isLimitLiftCone` here.
